US08609711B2
The hydrochloride salt of N-{(1S)-2-amino-1-[(3-fluorophenyl)methyl]ethyl}-5-chloro-4-(4-chloro-1-methyl-1H-pyrazol-5-yl)-2-thiophenecarboxamide prepared generally as described in Example 96 of International Application No. PCT/US2008/053269, having an International Filing date of Feb. 7, 2008, and having International Publication Number WO/2008/098104 and an International Publication Date of Aug. 14, 2008, which generally states that the free base compound, N-{(1S)-2-amino-1-[(3-fluorophenyl)methyl]ethyl}-5-chloro-4-(4-chloro-1-methyl-1H-pyrazol-5-yl)-2-thiophenecarboxamide, is treated with 4M HCl in dioxane and after 5 min, the solution is concentrated and dried under vacuum to afford N-{(1S)-2-amino-1-[(3-fluorophenyl)methyl]ethyl}-5-chloro-4-(4-chloro-1-methyl-1H-pyrazol-5-yl)-2-thiophenecarboxamide hydrochloride, yielded an amorphous solid as indicated by the Powder X-Ray Diffraction (PXRD) pattern depicted in FIG. 3.

reactant | N-{(1S)-2-amino-1-[(3-fluorophenyl)methyl]ethyl}-5-chloro-4-(4-chloro-1-methyl-1H-pyrazol-5-yl)-2-thiophenecarboxamide | NC[C@H](CC1=CC(=CC=C1)F)NC(=O)C=1SC(=C(C1)C1=C(C=NN1C)Cl)Cl | C18H17Cl2FN4OS
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-{(1S)-2-amino-1-[(3-fluorophenyl)methyl]ethyl}-5-chloro-4-(4-chloro-1-methyl-1H-pyrazol-5-yl)-2-thiophenecarboxamide hydrochloride | Cl.NC[C@H](CC1=CC(=CC=C1)F)NC(=O)C=1SC(=C(C1)C1=C(C=NN1C)Cl)Cl | InChI=1S/C18H17Cl2FN4OS.ClH/c1-25-16(14(19)9-23-25)13-7-15(27-17(13)20)18(26)24-12(8-22)6-10-3-2-4-11(21)5-10;/h2-5,7,9,12H,6,8,22H2,1H3,(H,24,26);1H/t12-;/m0./s1
